US07829560B2
4-Methyl-3-morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide (Compound B40).
Compound is formed by reacting 3-bromo-4-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide with morpholine under conditions described in general procedure B. 1H NMR (300 MHz, CDCl3) δ 8.32 (m, 1H), 7.98 (broad s, 1H), 7.86 (m, 1H), 7.74 (m, 2H), 7.53 (m, 3H), 7.32 (m, 1H), 6.87 (t, 1H, J=7.5), 4.34 (m, 2H), 3.88 (m, 4H), 3.77 (m, 4H), 2.97 (m, 6H), 2.68 (m, 4H), 2.42 (d, 3H, J=5.7). MS: 476.2 (M+1).

reactant | 3-bromo-4-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1C | C24H25BrN2O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-Methyl-3-morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | CC1=C(C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C1)N1CCOCC1 | C28H33N3O4
